US07115767B2
To a DMF solution (30 mL) of 8-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid (5.0 g, 24 mmol) was added MeI (7.1 g, 50 mmol) and K2CO3 (6.9 g, 50 mmol). The mixture was allowed to stir overnight and ethyl acetate (200 mL) was added. The resulting solution was washed with water (3×50 mL) and brine (50 mL) to provide 8-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester (6.6 g).

reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | 8-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid | 24 mmol, 5.0 g | COC=1C=CC=C2CCC(CC12)C(=O)O | C12H14O3
reactant | MeI | 50 mmol, 7.1 g | CI | CH3I
reactant | K2CO3 | 50 mmol, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 8-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 6.6 g | COC(=O)C1CC2=C(C=CC=C2CC1)OC | C13H16O3
